US06960575B2
3-[(2S)-2-{(3RS)-4-Acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-3-phenylpropanoyl]-1-methylhydantoin (Compound No. 15-1)
60% Sodium hydride (200 mg) is added to a solution of 1-methylhydantoin (571 mg) in anhydrous tetrahydrofuran (20 ml), and the mixture is stirred for 20 minutes. Then, 4-nitrophenyl (2S)-2-{(3RS)-4-acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-3-phenylpropionate (1.17 g, Compound No. 14-1) is added to the mixture, and the whole is stirred for three days. A saturated aqueous ammonium chloride solution is added to the reaction mixture, and the whole is extracted with ethyl acetate. The extract is washed with a saturated aqueous sodium hydrogencarbonate solution and saturated brine successively and dried over anhydrous magnesium sulfate. The extract is concentrated under reduced pressure, and the resulting residue is purified by silica gel column chromatography to give the titled compound (116 mg).

reactant | Sodium hydride | 200 mg | [H-].[Na+]
reactant | 1-methylhydantoin | 571 mg | CN1C(=O)NC(=O)C1 | C4H6N2O2
reactant | 4-nitrophenyl (2S)-2-{(3RS)-4-acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-3-phenylpropionate | C(C)(=O)N1C(C(N(C(=C1)C1=CC=CC=C1)CC(=O)N[C@H](C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])CC1=CC=CC=C1)=O)C(C)C | C32H32N4O7
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-[(2S)-2-{(3RS)-4-Acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-3-phenylpropanoyl]-1-methylhydantoin | 116 mg | C(C)(=O)N1C(C(N(C(=C1)C1=CC=CC=C1)CC(=O)N[C@H](C(=O)N1C(N(CC1=O)C)=O)CC1=CC=CC=C1)=O)C(C)C | C30H33N5O6
